U21 source headroom; hypothetical reservoir sensitivity c20000_f50_line1.1_lamp5
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/tools/spice/models.lib
Vsecondary secp secn SIN(0 20.68 50)
Rsec1 secp acp .05
Rsec2 secn acn .05
Dbridge1 acp vinf DSCH20100
Dbridge2 acn vinf DSCH20100
Dbridge3 0 acp DSCH20100
Dbridge4 0 acn DSCH20100
Creservoir stored 0 16000u
Rreservoir stored vinf .05
Rrawbleed vinf 0 5000
Rlamps vinf 0 5
Bbuck vinf 0 I=10/max(v(vinf),4.5)*min(max((time-20m)/10m,0),1)
.save v(vinf) i(Vsecondary) @dbridge1[id] @dbridge2[id] i(Creservoir)
.options method=gear reltol=.0001 abstol=100n vntol=10u
.tran 10u 500m 0 10u
.control
run
let sim_end=time[length(time)-1]
print sim_end
meas tran raw_min MIN v(vinf) from=400m to=500m
meas tran raw_max MAX v(vinf) from=400m to=500m
meas tran raw_mean AVG v(vinf) from=400m to=500m
meas tran secondary_rms RMS i(Vsecondary) from=400m to=500m
meas tran capacitor_rms RMS i(Creservoir) from=400m to=500m
meas tran diode_peak MAX @dbridge1[id] from=400m to=500m
meas tran inrush_peak MAX @dbridge1[id] from=0 to=30m
.endc
.end
